US08541407B2
A suspension of N-(4-chloropyridin-3-yl)-2-nitrobenzamide (1.9 g, 6.8 mmol) in dioxane (10 mL) and conc. HCL (40 mL) was treated with tin chloride hydrate (6.2 g, 27.2 mmol). The reaction mixture was stirred at 90° C. for one hour (the mixture evolved from suspension to solution and back to suspension). After cooling down, the precipitate was filtered off and dried under high vacuum. The 2-amino-N-(4-chloropyridin-3-yl)benzamide hydrochloride was obtained as an off-white solid (3.0 g). LCMS [M+H]: 248.

reactant | N-(4-chloropyridin-3-yl)-2-nitrobenzamide | 6.8 mmol, 1.9 g | ClC1=C(C=NC=C1)NC(C1=C(C=CC=C1)[N+](=O)[O-])=O | C12H8ClN3O3
reactant | tin chloride hydrate | 27.2 mmol, 6.2 g | O.[Sn](Cl)(Cl)(Cl)Cl
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2-amino-N-(4-chloropyridin-3-yl)benzamide hydrochloride | Cl.NC1=C(C(=O)NC=2C=NC=CC2Cl)C=CC=C1 | InChI=1S/C12H10ClN3O.ClH/c13-9-5-6-15-7-11(9)16-12(17)8-3-1-2-4-10(8)14;/h1-7H,14H2,(H,16,17);1H
